US07625909B2
Step 1. Synthesis of 1,1-Dimethylethyl(2R,3S)-3-hydroxy-2-(hydroxymethyl)-1-pyrrolidinecarboxylate
The title compound was prepared from 1-(1,1-dimethylethyl) 2-ethyl(2S,3S)-3-hydroxy-1,2-pyrrolidinedicarboxylate using the methods used to prepare 1,1-dimethylethyl(2S,3S)-2-(hydroxymethyl)-3-methyl-1-pyrrolidinecarboxylate. 1H NMR (400 MHz, DMSO-D6) δ ppm 1.4 (s, 9H), 1.6 (m, 1H), 1.9 (m, 1H), 3.1 (m, 1H), 3.2 (m, 2H), 3.4 (m, 2H), 4.1 (m, 1H). ES+=218.24, 117.97 (-Boc).

reactant | 1-(1,1-dimethylethyl) 2-ethyl(2S,3S)-3-hydroxy-1,2-pyrrolidinedicarboxylate | O[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C12H21NO5
reactant | 1,1-dimethylethyl(2S,3S)-2-(hydroxymethyl)-3-methyl-1-pyrrolidinecarboxylate | OC[C@H]1N(CC[C@@H]1C)C(=O)OC(C)(C)C | C11H21NO3
product | 1,1-Dimethylethyl(2R,3S)-3-hydroxy-2-(hydroxymethyl)-1-pyrrolidinecarboxylate | O[C@@H]1[C@H](N(CC1)C(=O)OC(C)(C)C)CO | C10H19NO4
